US04883907
Methyl 3-(β-phenylpropionyl)-carbazate
22.0 g (0.1 mole) of methyl 3-(β-phenylacryloyl)-carbazate are dissolved in 300 ml. of methanol and the solution is hydrogenated in the presence of 0.2 g. of a palladium-charcoal catalyst. The solution is evaporated. Thus 21.8 g of the white crystalline desired compound are obtained. Yield: 98.2%. M.p.: 118° C.

reactant | methyl 3-(β-phenylacryloyl)-carbazate | 0.1 mole, 22.0 g | C1(=CC=CC=C1)C=CC(=O)NNC(=O)OC | C11H12N2O3
catalyst | palladium-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | Methyl 3-(β-phenylpropionyl)-carbazate | 21.8 g, Yield: 98.2% | C1(=CC=CC=C1)CCC(=O)NNC(=O)OC | C11H14N2O3
